US08377931B2
Method A: Synthesis of 4-(4-chloro-benzenesulfonyl)-6-methyl-8-piperazin-1-yl-3,4-dihydro-2H-benzo[1,4]oxazine
A three neck flask was charged with tris(dibenzylideneacetone)dipalladium(0) (9.1 mg, 0.001 mmol, 2 mol % Pd), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (15.5 mg, 0.025 mmol, 5 mol %), and sodium-tert-butoxide (67 mg, 0.7 mmol) and flushed with nitrogen. A solution of 8-bromo-4-(4-chloro-benzenesulfonyl)-6-methyl-3,4-dihydro-2H-benzo[1,4]oxazine (201 mg, 0.5 mmol) and piperazine (129 mg, 1.5 mmol) in toluene (5 mL) was added. The mixture was heated to 95° C. and stirred for 18 hours. The mixture was cooled to room temperature, taken up in ethyl acetate and filtered. The organic phase was washed with water (2×20 mL) and extracted into 10% aqueous HCl (2×20 mL). The combined aqueous extracts were basified with solid potassium carbonate and extracted into ethyl acetate (2×20 mL). The combined organic extract was dried (K2CO3), filtered and concentrated to give the title compound as an oil (163 mg, 79.6%). The hydrochloride salt was prepared from ethanol-hydrogen chloride. MS: MH+=408. M.p. 147.9-152.9° C.

reactant | sodium-tert-butoxide | 0.7 mmol, 67 mg | CC(C)([O-])C.[Na+]
reactant | 8-bromo-4-(4-chloro-benzenesulfonyl)-6-methyl-3,4-dihydro-2H-benzo[1,4]oxazine | 0.5 mmol, 201 mg | BrC1=CC(=CC=2N(CCOC21)S(=O)(=O)C2=CC=C(C=C2)Cl)C | C15H13BrClNO3S
reactant | piperazine | 1.5 mmol, 129 mg | N1CCNCC1 | C4H10N2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.001 mmol, 9.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.025 mmol, 15.5 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 4-(4-chloro-benzenesulfonyl)-6-methyl-8-piperazin-1-yl-3,4-dihydro-2H-benzo[1,4]oxazine | 163 mg, 79.6% | ClC1=CC=C(C=C1)S(=O)(=O)N1CCOC2=C1C=C(C=C2N2CCNCC2)C | C19H22ClN3O3S
